US08809304B2
(1-1) Synthesis of 4′-methoxy-3′-methylacetophenone (Comparison Compound 1-1)
To a solution of 4′-hydroxy-3′-methylacetophenone (25.0 g) in N,N-dimethylformamide (120 ml) were added potassium carbonate (69.1 g) and methyl iodide (11.4 ml) under ice-cooling, and the mixture was stirred for 2 hr under ice-cooling and further at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (27.5 g) as a yellow oil.

reactant | 4′-hydroxy-3′-methylacetophenone | 25.0 g | OC1=C(C=C(C=C1)C(C)=O)C | C9H10O2
reactant | potassium carbonate | 69.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 11.4 ml | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 4′-methoxy-3′-methylacetophenone | 27.5 g | COC1=C(C=C(C=C1)C(C)=O)C | C10H12O2
